US07449470B2
2,6-Diphenyl-3H-pyrimidin-4-one (10)7
Benzamidine hydrochloride (3.9 g, 24.9 mmol) was dissolved in a minimal amount of H2O (10 mL), to this was added sodium hydroxide pellets (1.0 g, 24.9 mmol, 1 eq.) dissolved in H2O (2 mL), followed by ethylbenzoate (4.53 mL, 26.1 mmol, 1.05 eq.). Ethanol was then added until a clear solution was obtained. The reaction mixture was then allowed to stir at room temperature overnight yielding a thick suspension, which was then filtered to give a white solid. After washing with diethyl ether to remove unreacted/excess β-ketoester the solid was dried in vacuo to give 57% of the desired product. 1H NMR δ (DMSO-d6): 8.31-8.18 (m, 5H, Ar), 7.60-7.54 (m, 5H, Ar), 6.92 (s, 1H, Ar).

reactant | Benzamidine hydrochloride | 24.9 mmol, 3.9 g | Cl.C(C1=CC=CC=C1)(=N)N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethylbenzoate | 26.1 mmol, 4.53 mL, 1.05 eq. | C(C)OC(C1=CC=CC=C1)=O | C9H10O2
reactant | Ethanol | C(C)O | C2H6O
solvent | H2O | 10 mL | O | H2O
solvent | H2O | 2 mL | O | H2O
product | 2,6-Diphenyl-3H-pyrimidin-4-one | 57% | C1(=CC=CC=C1)C1=NC(=CC(N1)=O)C1=CC=CC=C1 | C16H12N2O
